US07737295B2
A solution of [3-nitro-5-(trifluoromethyl)phenyl]methanol (400 mg, 1.88 mmol) in CH2Cl2 (20 mL) was cooled to 0° C. and then Dess-Martin periodinane (1.59 g, 3.76 mmol) was added. The reaction was slowly warmed to room temperature. After stirring at room temperature for twenty minutes, the reaction was poured into 1N NaOH (25 mL). The mixture was extracted with EtOAc (50 mL) and the organic extracts were washed with brine (25 mL), dried over Na2SO4, filtered, and concentrated. Purification by flash chromatography with 0% to 15% EtOAc/hexanes afforded 3-nitro-5-(trifluoromethyl)benzaldehyde. Rf=0.39 (15% EtOAc/hexanes). 1H NMR (CDCl3, 500 MHz) δ 10.18 (s, 1H), 8.91 (s, 1H), 8.74 (s, 1H), 8.48 (s, 1H).

reactant | [3-nitro-5-(trifluoromethyl)phenyl]methanol | 1.88 mmol, 400 mg | [N+](=O)([O-])C=1C=C(C=C(C1)C(F)(F)F)CO | C8H6F3NO3
reactant | Dess-Martin periodinane | 3.76 mmol, 1.59 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | NaOH | 1N, 25 mL | [OH-].[Na+]
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 3-nitro-5-(trifluoromethyl)benzaldehyde | [N+](=O)([O-])C=1C=C(C=O)C=C(C1)C(F)(F)F | C8H4F3NO3
